US08242280B2
A mixture of 3-(2-Methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (1.0 g, 2.0 mmole), 2-(6-Chloro-pyrimidin-4-yl)-2-cyano-N,N-dimethyl-acetamide (prepared according to the method published in Tetrahedron Letters (2005) 46, 3587-3589) (670 mg, 3.0 mmole), sodium bicarbonate, (2M aq, 4.9 mmole), acetonitrile (13.2 mL), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (97 mg, 0.12 mmole) was heated in a microwave reactor at 120° C. for 45 min. The crude mixture was concentrated to dryness, suspended in water (50 mL), and stirred for 30 min. The resulting precipitate was filtered off, suspended in ethyl acetate (15 mL), and stirred for 15 h. The precipitate was filtered off, rinsed with ethyl acetate (3×5 mL), and air dried. Recrystallization from ethylacetate/methanol afforded 2-cyano-2-{6-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyrimidin-4-yl}-N,N-dimethyl-acetamide (762 mg, 68% yield) as a bright yellow solid. MS: m/z 567.1 (M+H+).

reactant | 3-(2-Methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 2.0 mmole, 1.0 g | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H29BN2O5S
reactant | 2-(6-Chloro-pyrimidin-4-yl)-2-cyano-N,N-dimethyl-acetamide | ClC1=CC(=NC=N1)C(C(=O)N(C)C)C#N | C9H9ClN4O
reactant | sodium bicarbonate | 4.9 mmole, 2M | C([O-])(O)=O.[Na+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.12 mmole, 97 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | acetonitrile | 13.2 mL | C(C)#N | C2H3N
product | 2-cyano-2-{6-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyrimidin-4-yl}-N,N-dimethyl-acetamide | 762 mg, 68% yield | C(#N)C(C(=O)N(C)C)C1=NC=NC(=C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C30H26N6O4S
